US08975254B2
a) 2-Nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile
The title compound was prepared from 4-chloro-2-nitrobenzonitrile (1.50 g) and 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxa-borolan-2-yl)-1H-pyrazole (2.74 g) using the method of Example 39(a). Yield 1.75 g. 1H-NMR (400 MHz; d6-DMSO): δ 1.57 (m, 3H), 1.84 (m, 1H), 1.97 (m, 1H), 2.38-2.47 (m, 1H), 3.68-3.75 (m, 1H), 4.03 (m, 1H), 5.33 (dd, 1H), 6.84 (d, 1H), 7.69 (d, 1H), 8.13 (dd, 1H), 8.31 (d, 1H), 8.60 (d, 1H).

reactant | 4-chloro-2-nitrobenzonitrile | 1.50 g | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxa-borolan-2-yl)-1H-pyrazole | 2.74 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
product | 2-Nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14N4O3
